US07115607B2
Methyl 2-{4-[(2R)-2-({(3S)-2-[(tert-butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoate
The title compound was prepared according to the procedure described in Preparation V by using methyl 2-{4-[(2R)-2-amino-3-(4-chlorophenyl)propanoyl] piperazinyl}-benzoate hydrochloride (2.6 g, 5.9 mmol), Boc-L-Tic-OH (Bachem) (1.8 g, 6.5 mmol), HOAT (Aldrich) (810 mg, 5.9 mmol), and EDC (Aldrich) (2.3 g, 12 mmol) and DIEA (Aldrich) (1.0 mL, 5.9 mmol). The title compound was isolated and purified by column chromatography (CH2Cl2 with 1.5% NH3 2M in MeOH) (2.8 g). MS (ESI, pos. ion) m/z: 661 (M+H). Calc'd for C36H41ClN4O6: 660.27.

reactant | methyl 2-{4-[(2R)-2-amino-3-(4-chlorophenyl)propanoyl] piperazinyl}-benzoate hydrochloride | 5.9 mmol, 2.6 g | Cl.N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1)CC1=CC=C(C=C1)Cl
reactant | Boc-L-Tic-OH | 6.5 mmol, 1.8 g | N1([C@@H](CC2=CC=CC=C2C1)C(=O)O)C(=O)OC(C)(C)C | C15H19NO4
reactant | HOAT | 5.9 mmol, 810 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 12 mmol, 2.3 g
reactant | DIEA | 5.9 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
product | Methyl 2-{4-[(2R)-2-({(3S)-2-[(tert-butyl)oxycarbonyl](3-1,2,3,4-tetrahydroisoquinolyl)}carbonylamino)-3-(4-chlorophenyl)propanoyl]piperazinyl}benzoate | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1)CC1=CC=C(C=C1)Cl | C36H41ClN4O6
